US06479527B1
Ethyl 2-azido-3-(2-thienyl)propenoate
A solution of ethyl azidoacetate (1.38 g) and thiophene-2-carboxaldehyde (1 g) in ethanol (20 ml) was added dropwise to a solution of potassium ethoxide (0.9 g) in ethanol (20 ml) at 0° C. The reaction was stirred for 2 hours at 0° C. and 2 hours at ambient temperature then poured into saturated aqueous ammonium chloride solution (150 ml) and extracted with ether. Combined organic extracts were dried (MgSO4), concentrated in vacuo and the residue purified by column chromatography using isohexane as eluent to give the product as a pale yellow crystalline solid (0.49 g, 25%), NMR d(CDCl3) 1.40 (3H, t), 4.37 (2H, q), 7.08 (2H, m), 7.18 (1H, s), 7.38 (1H, m), 7.52 (1H, d).

reactant | ethyl azidoacetate | 1.38 g | N(=[N+]=[N-])CC(=O)OCC | C4H7N3O2
reactant | thiophene-2-carboxaldehyde | 1 g | S1C(=CC=C1)C=O | C5H4OS
reactant | potassium ethoxide | 0.9 g | [O-]CC.[K+]
reactant | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Ethyl 2-azido-3-(2-thienyl)propenoate | 0.49 g, 25% | N(=[N+]=[N-])C(C(=O)OCC)=CC=1SC=CC1 | C9H9N3O2S
